US06855710B2
(Z)-3-{1-[4-(N-aminocarbonylmethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 18 from (Z)-3-{1-[4-(N-carboxymethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone, N-hydroxysuccinimide-ammonium salt, TBTU and triethylamine in DMF.

reactant | (Z)-3-{1-[4-(N-carboxymethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | C(=O)(O)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H21N3O5S
reactant | N-hydroxysuccinimide-ammonium salt | [NH4+].ON1C(CCC1=O)=O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(N-aminocarbonylmethyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | NC(=O)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H22N4O4S
